US07459448B2
2-Amino-10-iodo-5H,7H-benzo[b]pyrimido[4,5-d]azepin-6-one (I-51)
In a manner similar to that described in method H, 7-iodo-4-dimethylaminomethylene-3,4-dihydro-1H-benzo[b]azepine-2,5-dione (v-a) and guanidine were converted to I-51 (79%): HRMS Calcd. for C12H9N4O: 352.9899, Found 352.9900.

reactant | 7-iodo-4-dimethylaminomethylene-3,4-dihydro-1H-benzo[b]azepine-2,5-dione | IC1=CC2=C(NC(CC(C2=O)=CN(C)C)=O)C=C1 | C13H13IN2O2
reactant | guanidine | NC(=N)N | CH5N3
product | 2-Amino-10-iodo-5H,7H-benzo[b]pyrimido[4,5-d]azepin-6-one | NC=1N=CC2=C(C3=C(NC(C2)=O)C=CC(=C3)I)N1 | C12H9IN4O
